US08003649B2
Methanesulphinic acid sodium salt (748 mg, 7.33 mmol) was added to (3-bromo-5-fluorophenyl)methanol (501 mg, 2.44 mmol) and copper(I) iodide (0.248 mL, 7.33 mmol) in DMSO (12 mL) under nitrogen. The resulting mixture was stirred at 90° C. for 3 days. The reaction mixture was diluted with EtOAc (300 mL), then filtered. The filtrate was washed sequentially with water (200 mL) and saturated brine (2×200 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 70 to 100% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford [3-fluoro-5-(methylsulfonyl)phenyl]methanol (240 mg, 48.1%) as a white solid.

reactant | Methanesulphinic acid sodium salt | 7.33 mmol, 748 mg | [Na+].CS(=O)[O-]
reactant | (3-bromo-5-fluorophenyl)methanol | 2.44 mmol, 501 mg | BrC=1C=C(C=C(C1)F)CO | C7H6BrFO
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 7.33 mmol, 0.248 mL | [Cu]I
product | [3-fluoro-5-(methylsulfonyl)phenyl]methanol | 240 mg, 48.1% | FC=1C=C(C=C(C1)S(=O)(=O)C)CO | C8H9FO3S
